US07947691B2
3-Hydroxy-1-[6-(4-trifluoromethoxy-phenyl)-pyridin-3-ylmethyl]-1H-thieno[3,2-d]pyrimidine-2,4-dione
The title compound was prepared from 1-(6-chloro-pyridin-3-ylmethyl)-3-hydroxy-1H-thieno[3,2-d]pyrimidine-2,4-dione (from previous example) and 4-trifluoromethoxy phenylboronic acid via general procedure C. The crude product was purified by mass-triggered preparative HPLC. 1H NMR (DMSO-d6) δ 10.85 (bs, 1H), 8.72 (d, 1H, J=1.8 Hz), 8.17 (d, 1H, J=8.7 Hz), 8.16 (d, 1H, J=5.5 Hz), 7.97 (d, 1H, J=8.1 Hz), 7.82 (dd-1H, J=1.8, 8.1 Hz), 7.47 (d, 2H, J=8.7 Hz), 7.45 (d, 1H, J=5.5 Hz), 5.40 (s, 2H); Electrospray MS: 436 (M+H); retention time: 2.84 min.

reactant | 1-(6-chloro-pyridin-3-ylmethyl)-3-hydroxy-1H-thieno[3,2-d]pyrimidine-2,4-dione | ClC1=CC=C(C=N1)CN1C(N(C(C2=C1C=CS2)=O)O)=O | C12H8ClN3O3S
reactant | 4-trifluoromethoxy phenylboronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
product | 3-Hydroxy-1-[6-(4-trifluoromethoxy-phenyl)-pyridin-3-ylmethyl]-1H-thieno[3,2-d]pyrimidine-2,4-dione | ON1C(N(C2=C(C1=O)SC=C2)CC=2C=NC(=CC2)C2=CC=C(C=C2)OC(F)(F)F)=O | C19H12F3N3O4S
